US06762189B1
Preparation of N-hydroxyethyl-N-methyl-4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidine Carboxamide
To the solution of methylene chloride (120 ml) was added N,N-dimethylformamide (1.1 ml) and thionyl chloride (1.2 ml) and refluxed for 2 hr. The solution was added 4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidinecarboxylic acid ethyl ester (3 g) prepared from preparation example 3, and refluxed for 10 hr. The reaction mixture was cooled and slowly added 2-(methylamino)ethanol (4 ml) at 0˜5° C. and stirred for 1 hr. The reaction mixture was added methanol (80 ml), stirred 5 min. and then filtered for removing impurity. The filtrate was concentration by evaporation under pressure and it was obtained a solid product. The solid product in methanol: H2O=1:1 was added aq. 3N NaOH (3 ml), stirred for 1 hr, filtered and washed with H2O. The desired compound (1.61 g. 45%) was obtained by recrystallization with methylene chloride:isopropyl ether=1:4.

reactant | thionyl chloride | 1.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidinecarboxylic acid ethyl ester | 3 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC=1C=C2C=NNC2=CC1 | C15H15N5O2S
reactant | 2-(methylamino)ethanol | 4 ml | CNCCO | C3H9NO
reactant | NaOH | 3N, 3 ml | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
solvent | H2O | O | H2O
solvent | N,N-dimethylformamide | 1.1 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | N-hydroxyethyl-N-methyl-4-(1H-5-indazolylamino)-2-methylthio-5-pyrimidine Carboxamide | 1.61 g, 45% | OCCN(C(=O)C=1C(=NC(=NC1)SC)NC=1C=C2C=NNC2=CC1)C | C16H18N6O2S
